US08420634B2
2-[2-amino-5-(trifluoromethoxy)phenylthio]-acetonitrile
A suspension of 2-amino-6-trifluoromethoxybenzothiazole (1.8 g, 7.7 mmol) in 10 N NaOH (30 ml) is refluxed, under a current of nitrogen, for 2 hours, after which time the suspension becomes a clear solution, and to which chloroacetonitrile (0.48 ml, 7.7 mmol) in CH2Cl2 (50 ml) and tetrabutylammonium hydrogensulphate (0.26 g, 0.77 mmol) are added. The resulting reaction mixture is stirred for 18 hours at room temperature, then the organic phase is separated, washed with water and dried over Na2SO4. The solvent is evaporated and the residue chromatographed through silica, eluting with petroleum ether/AcOEt (1:1) to give the product as a dark oil (1.1 g, 58% yield). 1H-NMR (CDCl3): 3.45 (s, 2H), 4.44 (br s, 2H), 6.74 (d, J=8.8, 1H), 7.10 (m, 1H), 7.39 (m, 1H). MS (ESI): m/z 249 (M+H+).

reactant | 2-amino-6-trifluoromethoxybenzothiazole | 7.7 mmol, 1.8 g | NC=1SC2=C(N1)C=CC(=C2)OC(F)(F)F | C8H5F3N2OS
reactant | chloroacetonitrile | 7.7 mmol, 0.48 ml | ClCC#N | C2H2ClN
solvent | NaOH | 10 N, 30 ml | [OH-].[Na+]
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium hydrogensulphate | 0.77 mmol, 0.26 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-[2-amino-5-(trifluoromethoxy)phenylthio]-acetonitrile | 1.1 g, 58% yield | NC1=C(C=C(C=C1)OC(F)(F)F)SCC#N | C9H7F3N2OS
